Name:  ___.             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Latex / Lisinopril
 
Attending: ___.
 
Chief Complaint:
Left lower back mass
 
Major Surgical or Invasive Procedure:
Wide excision of left back renal cell carcinoma with 30 cm2 
advancement flap closure.

 
History of Present Illness:
This was a ___ woman with a history of progressive 
metastatic renal cell carcinoma involving the lung, spine and 
additional sites. She had a very symptomatic soft tissue 
metastasis to the left lumbar area which she strongly desired to 
have removed. Medial to it she had previously undergone a spinal 
fusion and resection of tumor metastatic to the spine. She was 
known to have additional metastases to the sacrum which were 
increasingly symptomatic with planned radiotherapy.
 
Past Medical History:
Renal Cell Carcinoma
Adrenal recurrence
Rt. nephrectomy ___
Adrenalectomy ___
Left knee surgery ___
T&A
Polypectomies 
 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
Physical exam at discharge:

VS: T 98.6  HR 78  BP 120/64  RR 18  Pox 96%RA
GEN: NAD, AOx3
CV: RRR
RESP: Unlabored
Back: There is no erythema or induration of the wound. The 
dressing is clean, dry, and intact. The ___ drain is in place.
ABD: Soft, nontender
EXT: No c/c/e
 
Pertinent Results:
None
 
Brief Hospital Course:
She underwent wide excision of the left back mass with a 30 cm2 
advancement flap closure. A #7 flat ___ drain was placed. 
Blood loss was minimal. Postoperatively, she underwent drain 
teaching and a physical therapy consult was ordered for 
difficulty ambulating at baseline. The postoperative course was 
uncomplicated and she was discharged on postop day 1 with ___ 
assistance.
 
Medications on Admission:
amlodipine 5mg daily
gabapentin 800mg tid
levothyroxine 200 mcg daily
ativan 2mg qhs
metoprolol 75mg bid
MS contin 3mg bid
nystatin cream
omeprazole 20mg daily
prochlorperazine 10mg prn nausea
valsartan 320mg daily
tylenol prn
aspirin 325mg daily
colace 100mg bid
fish oil
glucosamine
immodium prn
miralax
pyridoxine
 
Discharge Medications:
1. Amlodipine 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

2. Gabapentin 400 mg Capsule Sig: Two (2) Capsule PO TID (3 
times a day).  
3. Levothyroxine 100 mcg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
4. Metoprolol Tartrate 25 mg Tablet Sig: Three (3) Tablet PO BID 
(2 times a day).  
5. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
6. Valsartan 160 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily). 
 
7. Lorazepam 1 mg Tablet Sig: Two (2) Tablet PO HS (at bedtime). 
 
8. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day) as needed for constipation.
Disp:*60 Capsule(s)* Refills:*0*
9. Oxycodone 5 mg Tablet Sig: ___ Tablets PO every six (6) hours 
as needed for pain.
Disp:*50 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Left back metastatic renal cell carcinoma.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.

 
Discharge Instructions:
You may eat a regular diet and may resume your regular 
activities as tolerated.

Please continue taking your regular medications. You have been 
given a prescription for oxycodone for pain.

Please empty your drain daily and record the output. When the 
output is less than ___ milliliters per day plase call your 
physician to make an appointment to have the drain removed. 
Bring the record of the drain output to your follow-up 
appointment. 

Please do not shower until your drain is removed. Do not immerse 
your wound in water for the next 2 weeks. Please leave the wound 
dressing on until your follow-up appointment with your 
physician.

Please call your physician if you experience any of the 
following:
- Redness that is spreading
- Pain not adequately relieved with medication
- Drainage from wound
- Opening of incision
- Nausea and vomiting
- Fever greater than 101
- Chills
- Any other symptoms that concern you
 
Followup Instructions:
___